US03947470
3-(3,5-Dimethyl-4-methoxybenzoyl)-2-phenylbenzofuran (17.8 g., 0.05 mol.) is combined with 50 g. of freshly distilled pyridine hydrochloride and the mixture is refluxed 1 hour. The hot mixture is poured with stirring onto an ice-dilute hydrochloric acid mixture and the precipitate is collected to give 3-(3,5-dimethyl-4-hydroxybenzoyl)-2-phenylbenzofuran.

reactant | 3-(3,5-Dimethyl-4-methoxybenzoyl)-2-phenylbenzofuran | 0.05 mol, 17.8 g | CC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C(C1OC)C | C24H20O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 3-(3,5-dimethyl-4-hydroxybenzoyl)-2-phenylbenzofuran | CC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C(C1O)C | C23H18O3
